US04006161
To a stirring suspension of 25 grams (0.2 mole) of 3-aminothiophenol in 200 ml. of 5N NaOH was added drop-wise a solution of 24.6 grams of 2-bromopropane (0.20 mole; M.W. 123.00) dissolved in 100 ml. of 1,4-dioxane. The resulting suspension was stirred at room temperature overnight and then was extracted with two 500 ml. portions of ethyl ether. The ether extracts were combined, dried over Na2SO4, and evaporated in vacuo to yield 23.5 grams of m-isopropylthioaniline.

reactant | 3-aminothiophenol | 0.2 mole, 25 grams | NC=1C=C(C=CC1)S | C6H7NS
reactant | NaOH | 5N | [OH-].[Na+]
reactant | 2-bromopropane | 0.20 mole, 24.6 grams | BrC(C)C | C3H7Br
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | m-isopropylthioaniline | 23.5 grams | C(C)(C)SC=1C=C(N)C=CC1 | C9H13NS
